US07067537B2
iii) 5-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]pyridin-2(1H)-one
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(4-methylpyridin-3-yl)ethanone hydrobromate (188 mg) and 6-tert-butoxy-3-pyridinecarbothioamide (167 mg), the title compound (120 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(4-methylpyridin-3-yl)ethanone | 188 mg | BrCC(=O)C=1C=NC=CC1C | C8H8BrNO
reactant | 6-tert-butoxy-3-pyridinecarbothioamide | 167 mg | C(C)(C)(C)OC1=CC=C(C=N1)C(N)=S | C10H14N2OS
product | 5-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]pyridin-2(1H)-one | 120 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C=1C=CC(NC1)=O | C14H11N3OS
